* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__maj3_1.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__maj3_1 A B C Y VDD VSS
X0 a_884_987.t3 C.t3 a_208_231r.t5 VDD.t19 pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X1 a_208_231r.t2 C.t2 a_1652_987.t2 VDD.t20 pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X2 a_973_203r# A.t0 VSS.t8 VSS.t7 nfet_03v3 ad=0.3087p pd=2.01u as=4.32993p ps=24.5u w=1.02u l=0.28u
X3 a_92_987.t2 A.t3 a_208_231r.t1 VDD.t13 pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X4 a_1942_145# C a_208_231r# VSS nfet_03v3 ad=0.54405p pd=3.27u as=0.3087p ps=2.01u w=1.02u l=0.28u
X5 Y.t2 a_208_231r.t9 VDD.t11 VDD.t10 pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X6 a_208_231r.t6 C.t0 a_973_203r# VSS.t9 nfet_03v3 ad=0.3087p pd=2.01u as=0.52065p ps=3.23u w=1.02u l=0.28u
X7 VDD.t15 A.t2 a_1652_987.t0 VDD.t14 pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X8 VDD.t1 a_208_231r.t8 Y.t1 VDD.t0 pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X9 a_884_987.t1 B.t2 VDD.t9 VDD.t8 pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X10 a_1652_987.t3 C.t1 a_208_231r.t3 VDD.t21 pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X11 a_1942_145# B.t0 VSS.t5 VSS.t4 nfet_03v3 ad=0.3087p pd=2.015u as=3.24745p ps=18.375u w=1.02u l=0.28u
X12 VDD.t3 B.t5 a_92_987.t0 VDD.t2 pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X13 a_208_231r.t4 C.t4 a_884_987.t2 VDD.t18 pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X14 a_208_231r.t0 A.t4 a_92_987.t3 VDD.t12 pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X15 a_382_145# B.t1 VSS.t3 VSS.t2 nfet_03v3 ad=0.3087p pd=2.01u as=3.24745p ps=18.375u w=1.02u l=0.28u
X16 a_92_987.t1 B.t4 VDD.t5 VDD.t4 pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X17 a_1652_987.t1 A.t1 VDD.t17 VDD.t16 pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X18 a_382_145# A a_208_231r# VSS.t6 nfet_03v3 ad=0.52065p pd=3.23u as=0.3087p ps=2.01u w=1.02u l=0.28u
X19 Y.t0 a_208_231r.t7 VSS.t1 VSS.t0 nfet_03v3 ad=0.3087p pd=2.01u as=4.32993p ps=24.5u w=1.02u l=0.28u
X20 VDD.t7 B.t3 a_884_987.t0 VDD.t6 pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
R0 Y.n6 Y.t0 50.9005
R1 Y.n2 Y.n7 32.5888
R2 Y.n7 Y.n6 16.9387
R3 Y.n6 Y.n0 11.9058
R4 Y Y.n3 6.65267
R5 Y.n3 Y.n0 3.31861
R6 Y.n7 Y.n4 3.6505
R7 Y Y.n5 2.92847
R8 Y.n2 Y.n0 0.0474974
R9 Y.n1 Y.t0 0.459182
R10 Y.n1 Y.n4 0.825727
R11 Y.n5 Y.t2 1.41684
R12 Y.n5 Y.t1 1.41684
R13 Y.n3 Y.t0 5.88322
R14 Y.n3 Y.n4 1.7588
R15 Y.n2 Y.n1 1.57306
R16 C.n0 C.t1 36.7633
R17 C.n3 C.t4 33.6456
R18 C.n3 C.t3 28.8818
R19 C.n0 C.t2 25.536
R20 C C.n2 10.0229
R21 C.n2 C.n1 8.0767
R22 C.n2 C.t0 7.58874
R23 C C.n3 4.0005
R24 C C.n0 3.12592
R25 B.n0 B.t2 31.1559
R26 B.n1 B.t5 31.0545
R27 B.n1 B.t4 23.7545
R28 B.n0 B.t3 23.6531
R29 B.n3 B.n2 9.61925
R30 B.n2 B.n0 4.49866
R31 B.n2 B.n1 4.26471
R32 B B.t0 7.22511
R33 B.n3 B.t1 7.25074
R34 B B.n3 2.03344
R35 A.n3 A.t3 45.6255
R36 A.n0 A.t2 31.5614
R37 A.n3 A.t4 27.1148
R38 A.n0 A.t1 23.2475
R39 A.n4 A.n2 11.0895
R40 A.n1 A.n0 6.8808
R41 A.n4 A.n3 5.01439
R42 A.n1 A.t0 16.539
R43 A.n4 A.n1 1.1231
R44 A A.t1 0.0005
R45 VDD.n79 VDD.n78 411.361
R46 VDD.n81 VDD.n80 137.088
R47 VDD.n48 VDD.n47 137.088
R48 VDD.n52 VDD.n51 137.088
R49 VDD.n53 VDD.n44 137.088
R50 VDD.n57 VDD.n56 137.088
R51 VDD.n61 VDD.n39 137.088
R52 VDD.n63 VDD.n62 137.088
R53 VDD.n66 VDD.n36 137.088
R54 VDD.n68 VDD.n35 137.088
R55 VDD.n72 VDD.n71 137.088
R56 VDD.n73 VDD.n31 137.088
R57 VDD.n77 VDD.n27 137.088
R58 VDD.n44 VDD.t6 127.296
R59 VDD.n71 VDD.t16 127.296
R60 VDD.n81 VDD.t12 117.504
R61 VDD.n53 VDD.t4 117.504
R62 VDD.t0 VDD.n27 117.504
R63 VDD.n58 VDD.t18 107.712
R64 VDD.n62 VDD.t19 107.712
R65 VDD.n63 VDD.t20 107.712
R66 VDD.n67 VDD.t21 107.712
R67 VDD.t13 VDD.n46 97.9197
R68 VDD.n46 VDD.t2 97.9197
R69 VDD.t10 VDD.n72 97.9197
R70 VDD.n58 VDD.t8 88.1278
R71 VDD.t14 VDD.n67 88.1278
R72 VDD.t8 VDD.n57 48.9601
R73 VDD.n68 VDD.t14 48.9601
R74 VDD.n48 VDD.t13 39.1682
R75 VDD.n51 VDD.t2 39.1682
R76 VDD.n73 VDD.t10 39.1682
R77 VDD.t18 VDD.n39 29.3763
R78 VDD.t19 VDD.n61 29.3763
R79 VDD.t20 VDD.n36 29.3763
R80 VDD.t21 VDD.n66 29.3763
R81 VDD.n47 VDD.t12 19.5843
R82 VDD.t4 VDD.n52 19.5843
R83 VDD.n31 VDD.t0 19.5843
R84 VDD.n3 VDD.n26 5.514
R85 VDD.n83 VDD.n82 9.8005
R86 VDD.n5 VDD.n19 2.75725
R87 VDD.n49 VDD.n19 9.8005
R88 VDD.n7 VDD.n6 2.75725
R89 VDD.n50 VDD.n6 9.8005
R90 VDD.n17 VDD.n43 2.75725
R91 VDD.n54 VDD.n43 9.8005
R92 VDD.n9 VDD.n8 2.75725
R93 VDD.n55 VDD.n8 9.8005
R94 VDD.n16 VDD.n41 2.75725
R95 VDD.n59 VDD.n41 9.8005
R96 VDD.n59 VDD.n40 9.8005
R97 VDD.n60 VDD.n10 2.75725
R98 VDD.n60 VDD.n38 9.8005
R99 VDD.n64 VDD.n11 2.75725
R100 VDD.n64 VDD.n37 9.8005
R101 VDD.n65 VDD.n12 2.75725
R102 VDD.n65 VDD.n34 9.8005
R103 VDD.n69 VDD.n34 9.8005
R104 VDD.n69 VDD.n15 2.75725
R105 VDD.n70 VDD.n32 9.8005
R106 VDD.n13 VDD.n30 2.75725
R107 VDD.n74 VDD.n30 9.8005
R108 VDD.n74 VDD.n29 9.8005
R109 VDD.n14 VDD.n29 2.75725
R110 VDD.n76 VDD.n75 9.8005
R111 VDD.n24 VDD.n21 9.8005
R112 VDD.n23 VDD.n22 9.8005
R113 VDD.n56 VDD.t6 9.79242
R114 VDD.n35 VDD.t16 9.79242
R115 VDD.n4 VDD.n28 4.93411
R116 VDD VDD.n83 6.3005
R117 VDD.n82 VDD.n81 6.3005
R118 VDD.n82 VDD.n5 2.75725
R119 VDD.n47 VDD.n19 6.3005
R120 VDD VDD.n5 1.77287
R121 VDD.n49 VDD.n48 6.3005
R122 VDD.n7 VDD.n49 2.75725
R123 VDD.n46 VDD.n6 6.3005
R124 VDD VDD.n7 1.77287
R125 VDD.n51 VDD.n50 6.3005
R126 VDD.n50 VDD.n17 2.75725
R127 VDD.n52 VDD.n43 6.3005
R128 VDD.n17 VDD.n1 1.77287
R129 VDD.n54 VDD.n53 6.3005
R130 VDD.n9 VDD.n54 2.75725
R131 VDD.n44 VDD.n8 6.3005
R132 VDD.n1 VDD.n9 1.77287
R133 VDD.n56 VDD.n55 6.3005
R134 VDD.n55 VDD.n16 2.75725
R135 VDD.n57 VDD.n41 6.3005
R136 VDD.n16 VDD.n1 1.77287
R137 VDD.n59 VDD.n58 6.3005
R138 VDD.n1 VDD.n59 6.3005
R139 VDD.n40 VDD.n39 6.3005
R140 VDD.n10 VDD.n40 2.75725
R141 VDD.n61 VDD.n60 6.3005
R142 VDD.n10 VDD.n1 1.77287
R143 VDD.n62 VDD.n38 6.3005
R144 VDD.n38 VDD.n11 2.75725
R145 VDD.n64 VDD.n63 6.3005
R146 VDD.n1 VDD.n11 1.77287
R147 VDD.n37 VDD.n36 6.3005
R148 VDD.n12 VDD.n37 2.75725
R149 VDD.n66 VDD.n65 6.3005
R150 VDD.n12 VDD.n1 1.77287
R151 VDD.n67 VDD.n34 6.3005
R152 VDD.n34 VDD.n1 6.3005
R153 VDD.n69 VDD.n68 6.3005
R154 VDD.n1 VDD.n15 1.77287
R155 VDD.n35 VDD.n32 6.3005
R156 VDD.n15 VDD.n32 2.75725
R157 VDD.n71 VDD.n70 6.3005
R158 VDD.n70 VDD.n13 2.75725
R159 VDD.n72 VDD.n30 6.3005
R160 VDD.n13 VDD.n1 1.77287
R161 VDD.n74 VDD.n73 6.3005
R162 VDD.n1 VDD.n74 6.3005
R163 VDD.n31 VDD.n29 6.3005
R164 VDD.n1 VDD.n14 1.77287
R165 VDD.n75 VDD.n27 6.3005
R166 VDD.n75 VDD.n14 2.75725
R167 VDD.n77 VDD.n76 6.3005
R168 VDD.n76 VDD.n4 2.17736
R169 VDD.n78 VDD.n77 6.3005
R170 VDD.n3 VDD.n0 1.77287
R171 VDD.n4 VDD.n0 2.06282
R172 VDD.n22 VDD 6.3005
R173 VDD VDD.n23 6.3005
R174 VDD VDD.n24 6.3005
R175 VDD.n80 VDD.n21 6.3005
R176 VDD.n80 VDD.n79 6.3005
R177 VDD.n26 VDD.n2 5.4873
R178 VDD.n1 VDD.n33 5.42746
R179 VDD.n1 VDD.n42 5.42746
R180 VDD.n1 VDD.n45 5.42746
R181 VDD.n1 VDD.t1 4.32793
R182 VDD.n1 VDD.t11 4.32597
R183 VDD.n78 VDD.n2 2.82549
R184 VDD.n79 VDD.n25 2.82549
R185 VDD.n3 VDD.n28 5.514
R186 VDD.n24 VDD.n20 2.75725
R187 VDD.n23 VDD.n20 2.75725
R188 VDD.n25 VDD.n21 2.73055
R189 VDD.n22 VDD.n18 2.17736
R190 VDD.n83 VDD.n18 2.17736
R191 VDD.n80 VDD.n18 2.06282
R192 VDD.n0 VDD.n2 2.03587
R193 VDD.n25 VDD 2.03587
R194 VDD.n1 VDD 1.9685
R195 VDD.n77 VDD.n26 1.77287
R196 VDD.n77 VDD.n28 1.77287
R197 VDD.n80 VDD.n20 1.77287
R198 VDD.n33 VDD.t15 1.41684
R199 VDD.n33 VDD.t17 1.41684
R200 VDD.n42 VDD.t7 1.41684
R201 VDD.n42 VDD.t9 1.41684
R202 VDD.n45 VDD.t3 1.41684
R203 VDD.n45 VDD.t5 1.41684
R204 VDD.n1 VDD.n0 1.2965
R205 VSS.n82 VSS.n36 513.399
R206 VSS.n86 VSS.n85 513.399
R207 VSS.n87 VSS.n86 513.399
R208 VSS.n87 VSS.n34 513.399
R209 VSS.n51 VSS.n48 513.399
R210 VSS.n52 VSS.n51 513.399
R211 VSS.n53 VSS.n46 513.399
R212 VSS.n56 VSS.n46 513.399
R213 VSS.n57 VSS.n56 513.399
R214 VSS.n58 VSS.n44 513.399
R215 VSS.n61 VSS.n44 513.399
R216 VSS.n64 VSS.n63 513.399
R217 VSS.n64 VSS.n41 513.399
R218 VSS.n67 VSS.n41 513.399
R219 VSS.n69 VSS.n68 513.399
R220 VSS.n69 VSS.n40 513.399
R221 VSS.n73 VSS.n72 513.399
R222 VSS.n74 VSS.n73 513.399
R223 VSS.n74 VSS.n37 513.399
R224 VSS.n58 VSS.t9 485.897
R225 VSS.n80 VSS.n79 469.901
R226 VSS.n68 VSS.t4 435.474
R227 VSS.n48 VSS.t2 417.137
R228 VSS.n36 VSS.t6 316.291
R229 VSS.t7 VSS.n52 297.955
R230 VSS.n62 VSS.n61 284.204
R231 VSS.n40 VSS.t0 261.284
R232 VSS.n72 VSS.t0 252.117
R233 VSS.n63 VSS.n62 229.196
R234 VSS.n53 VSS.t7 215.445
R235 VSS.n85 VSS.t6 197.109
R236 VSS.t2 VSS.n34 96.2628
R237 VSS.t4 VSS.n67 77.9272
R238 VSS.t9 VSS.n57 27.504
R239 VSS.n75 VSS.n24 2.66071
R240 VSS.n70 VSS.n30 10.8894
R241 VSS.n18 VSS.n45 2.66071
R242 VSS.n59 VSS.n45 10.8894
R243 VSS.n20 VSS.n19 2.66071
R244 VSS.n60 VSS.n19 10.8894
R245 VSS.n21 VSS.n43 2.66071
R246 VSS.n65 VSS.n43 10.8894
R247 VSS.n23 VSS.n22 2.66071
R248 VSS.n50 VSS.n29 10.8894
R249 VSS.n83 VSS.n16 10.8894
R250 VSS.n84 VSS.n16 10.8894
R251 VSS.n17 VSS.n33 2.66071
R252 VSS.n88 VSS.n33 10.8894
R253 VSS.n75 VSS.n32 10.593
R254 VSS.n26 VSS.n13 2.62485
R255 VSS.n66 VSS.n22 10.5415
R256 VSS.n55 VSS.n31 10.49
R257 VSS.n54 VSS.n25 2.51264
R258 VSS.n28 VSS.n9 2.50574
R259 VSS.n27 VSS.n30 2.4988
R260 VSS.n50 VSS.n15 2.4988
R261 VSS.n8 VSS.n32 2.53355
R262 VSS.n14 VSS.n13 7.92821
R263 VSS.n66 VSS.n11 2.4771
R264 VSS.n83 VSS.n35 7.38939
R265 VSS.n76 VSS.n38 7.38939
R266 VSS.n6 VSS.n31 2.4182
R267 VSS.n1 VSS.n80 5.41963
R268 VSS.n79 VSS.n0 5.41963
R269 VSS.n88 VSS.n87 5.2005
R270 VSS.n26 VSS.n88 2.62485
R271 VSS.n86 VSS.n33 5.2005
R272 VSS.n17 VSS 1.27115
R273 VSS.n85 VSS.n84 5.2005
R274 VSS.n84 VSS.n17 2.66071
R275 VSS.n36 VSS.n16 5.2005
R276 VSS VSS.n16 5.2005
R277 VSS.n83 VSS.n82 5.2005
R278 VSS VSS.n83 5.2005
R279 VSS.n12 VSS.n48 5.2005
R280 VSS.n15 VSS.n12 2.4988
R281 VSS.n34 VSS.n13 5.2005
R282 VSS.n26 VSS 1.28908
R283 VSS.n52 VSS.n29 5.2005
R284 VSS.n25 VSS.n29 2.51264
R285 VSS.n51 VSS.n50 5.2005
R286 VSS.n15 VSS 1.3521
R287 VSS.n31 VSS.n46 5.2005
R288 VSS.n54 VSS.n53 5.2005
R289 VSS.n25 VSS 1.34518
R290 VSS.n22 VSS.n41 5.2005
R291 VSS.n0 VSS.n23 1.27115
R292 VSS.n65 VSS.n64 5.2005
R293 VSS.n23 VSS.n65 2.66071
R294 VSS.n63 VSS.n43 5.2005
R295 VSS.n21 VSS.n0 1.27115
R296 VSS.n61 VSS.n60 5.2005
R297 VSS.n60 VSS.n21 2.66071
R298 VSS.n19 VSS.n44 5.2005
R299 VSS.n0 VSS.n20 1.27115
R300 VSS.n59 VSS.n58 5.2005
R301 VSS.n20 VSS.n59 2.66071
R302 VSS.n57 VSS.n45 5.2005
R303 VSS.n18 VSS.n0 1.27115
R304 VSS.n56 VSS.n55 5.2005
R305 VSS.n55 VSS.n18 2.66071
R306 VSS.n68 VSS.n9 5.2005
R307 VSS.n0 VSS.n28 1.34863
R308 VSS.n67 VSS.n66 5.2005
R309 VSS.n11 VSS.n0 1.02858
R310 VSS.n40 VSS.n30 5.2005
R311 VSS.n0 VSS.n27 1.3521
R312 VSS.n70 VSS.n69 5.2005
R313 VSS.n28 VSS.n70 2.50574
R314 VSS.n73 VSS.n32 5.2005
R315 VSS.n72 VSS.n71 5.2005
R316 VSS.n71 VSS.n27 2.4988
R317 VSS.n38 VSS.n37 5.2005
R318 VSS.n24 VSS.n38 2.66071
R319 VSS.n75 VSS.n74 5.2005
R320 VSS.n0 VSS.n24 1.27115
R321 VSS.n4 VSS.n0 1.27115
R322 VSS.n77 VSS.n4 5.32092
R323 VSS.n76 VSS.n0 5.2005
R324 VSS.n35 VSS.n1 5.2005
R325 VSS.n1 VSS.n3 1.27115
R326 VSS.n7 VSS.t1 4.5995
R327 VSS.n10 VSS.t5 4.5995
R328 VSS.n14 VSS.t3 4.5995
R329 VSS.n5 VSS.t8 4.4105
R330 VSS VSS.n14 3.1505
R331 VSS.n6 VSS.n5 1.46527
R332 VSS.n11 VSS.n10 1.50094
R333 VSS.n8 VSS.n7 1.53514
R334 VSS.n5 VSS.n47 2.7725
R335 VSS.n80 VSS.n2 2.66071
R336 VSS.n79 VSS.n78 2.66071
R337 VSS.n81 VSS.n35 2.66071
R338 VSS.n81 VSS.n3 5.32092
R339 VSS.n3 VSS.n2 5.32092
R340 VSS.n77 VSS.n76 2.66071
R341 VSS.n78 VSS.n4 5.32092
R342 VSS.n7 VSS.n39 2.6465
R343 VSS.n10 VSS.n42 2.6465
R344 VSS.n14 VSS.n49 2.6465
R345 VSS.n5 VSS.n54 2.38227
R346 VSS.n0 VSS 2.0315
R347 VSS.n10 VSS.n9 1.98192
R348 VSS.n0 VSS.n8 1.82967
R349 VSS.n0 VSS 1.7495
R350 VSS.n14 VSS.n12 1.64457
R351 VSS.n71 VSS.n7 1.64457
R352 VSS.n78 VSS.n37 1.27115
R353 VSS.n77 VSS.n37 1.27115
R354 VSS.n82 VSS.n81 1.27115
R355 VSS.n82 VSS.n2 1.27115
R356 VSS.n0 VSS 1.26457
R357 VSS.n0 VSS 1.15326
R358 VSS VSS.n1 1.07488
R359 VSS.n0 VSS 1.07338
R360 VSS VSS.n6 1.0508
R361 a_1652_987.t1 a_1652_987.n1 4.91293
R362 a_1652_987.n1 a_1652_987.t2 4.89923
R363 a_1652_987.n1 a_1652_987.n0 2.6005
R364 a_1652_987.n0 a_1652_987.t0 1.41684
R365 a_1652_987.n0 a_1652_987.t3 1.41684
R366 a_884_987.n0 a_884_987.t0 4.91293
R367 a_884_987.n0 a_884_987.t3 4.89923
R368 a_884_987.n1 a_884_987.n0 2.6005
R369 a_884_987.n1 a_884_987.t2 1.41684
R370 a_884_987.t1 a_884_987.n1 1.41684
R371 a_92_987.t1 a_92_987.n1 4.91293
R372 a_92_987.n1 a_92_987.t3 4.89923
R373 a_92_987.n1 a_92_987.n0 2.6005
R374 a_92_987.n0 a_92_987.t0 1.41684
R375 a_92_987.n0 a_92_987.t2 1.41684
R376 a_208_231r.n1 a_208_231r.n5 1.68642
R377 a_208_231r.n1 a_208_231r.n2 0.152381
R378 a_208_231r.t6 a_208_231r.n4 1.68642
R379 a_208_231r.t6 a_208_231r.n3 0.152381
R380 a_208_231r.n17 a_208_231r.n12 85.0505
R381 a_208_231r.n23 a_208_231r.n22 85.0505
R382 a_208_231r.n7 a_208_231r.n23 47.2505
R383 a_208_231r.n9 a_208_231r.t9 38.9951
R384 a_208_231r.n9 a_208_231r.t8 38.7951
R385 a_208_231r.n28 a_208_231r.n24 23.1806
R386 a_208_231r.n16 a_208_231r.n13 18.4257
R387 a_208_231r.n26 a_208_231r.n25 16.9787
R388 a_208_231r.n1 a_208_231r.n14 14.7309
R389 a_208_231r.n20 a_208_231r.n19 11.6065
R390 a_208_231r.n31 a_208_231r.n30 11.5991
R391 a_208_231r.n32 a_208_231r.n6 11.5863
R392 a_208_231r.n20 a_208_231r.n11 10.3394
R393 a_208_231r.n33 a_208_231r.n32 10.3269
R394 a_208_231r.n31 a_208_231r.n21 10.3215
R395 a_208_231r.n27 a_208_231r.n7 10.2064
R396 a_208_231r.n8 a_208_231r.n6 2.87505
R397 a_208_231r.n28 a_208_231r.n27 8.8839
R398 a_208_231r.n27 a_208_231r.n26 8.64623
R399 a_208_231r.n32 a_208_231r.n0 6.45978
R400 a_208_231r.n15 a_208_231r.n14 5.4755
R401 a_208_231r.n0 a_208_231r.n31 4.5005
R402 a_208_231r.n0 a_208_231r.n20 4.5005
R403 a_208_231r.n10 a_208_231r.n9 4.34508
R404 a_208_231r.n2 a_208_231r.n15 5.38578
R405 a_208_231r.n18 a_208_231r.n13 3.6505
R406 a_208_231r.n15 a_208_231r.n13 14.9876
R407 a_208_231r.n25 a_208_231r.n3 5.38578
R408 a_208_231r.n29 a_208_231r.n28 3.1995
R409 a_208_231r.n18 a_208_231r.n17 3.1505
R410 a_208_231r.n29 a_208_231r.n23 3.1505
R411 a_208_231r.t6 a_208_231r.n7 3.1505
R412 a_208_231r.n19 a_208_231r.n1 2.93326
R413 a_208_231r.n30 a_208_231r.t6 2.93326
R414 a_208_231r.n17 a_208_231r.n16 2.86474
R415 a_208_231r.n10 a_208_231r.t7 8.77557
R416 a_208_231r.n26 a_208_231r.t6 2.04661
R417 a_208_231r.n25 a_208_231r.n24 1.92498
R418 a_208_231r.n2 a_208_231r.n12 3.86742
R419 a_208_231r.n18 a_208_231r.n5 0.0332878
R420 a_208_231r.n12 a_208_231r.n5 48.9364
R421 a_208_231r.n3 a_208_231r.n22 3.86742
R422 a_208_231r.n29 a_208_231r.n4 0.0332878
R423 a_208_231r.n22 a_208_231r.n4 48.9364
R424 a_208_231r.n0 a_208_231r.n10 1.98758
R425 a_208_231r.n16 a_208_231r.n1 1.71736
R426 a_208_231r.n19 a_208_231r.n12 1.62981
R427 a_208_231r.n30 a_208_231r.n22 1.62981
R428 a_208_231r.n33 a_208_231r.t0 1.41684
R429 a_208_231r.t1 a_208_231r.n33 1.41684
R430 a_208_231r.n11 a_208_231r.t2 1.41684
R431 a_208_231r.n11 a_208_231r.t3 1.41684
R432 a_208_231r.n21 a_208_231r.t4 1.41684
R433 a_208_231r.n21 a_208_231r.t5 1.41684
C0 C VDD 0.65663f
C1 B a_1942_145# 0.11231f
C2 VDD Y 0.32358f
C3 VDD B 0.66664f
C4 C A 0.39443f
C5 A B 0.51847f
C6 C B 0.34121f
C7 VDD A 1.0343f
C8 Y VSS 0.58762f
C9 B VSS 1.6496f
C10 VDD VSS 8.41799f
C11 a_1942_145# VSS 0.87574f
C12 a_973_203r# VSS 0.5789f
C13 a_382_145# VSS 0.79875f
C14 a_208_231r.n0 VSS 0.64393f
C15 a_208_231r.t6 VSS 0.18058f
C16 a_208_231r.n6 VSS 0.2908f
C17 a_208_231r.n9 VSS 0.14881f
C18 a_208_231r.n10 VSS 0.48192f
C19 a_208_231r.n11 VSS 0.13394f
C20 a_208_231r.n20 VSS 0.41016f
C21 a_208_231r.n21 VSS 0.14013f
C22 a_208_231r.n31 VSS 0.41756f
C23 a_208_231r.n32 VSS 0.48662f
C24 a_208_231r.n33 VSS 0.14098f
C25 a_208_231r.t1 VSS 0.11458f
C26 a_92_987.t3 VSS 0.21802f
C27 a_92_987.t0 VSS 0.10507f
C28 a_92_987.t2 VSS 0.12571f
C29 a_92_987.n0 VSS 0.10156f
C30 a_92_987.n1 VSS 0.45283f
C31 a_92_987.t1 VSS 0.20871f
C32 a_884_987.t3 VSS 0.2038f
C33 a_884_987.t0 VSS 0.20949f
C34 a_884_987.n0 VSS 0.45541f
C35 a_884_987.n1 VSS 0.10214f
C36 a_884_987.t1 VSS 0.10547f
C37 a_1652_987.t2 VSS 0.20244f
C38 a_1652_987.t0 VSS 0.11848f
C39 a_1652_987.t3 VSS 0.10072f
C40 a_1652_987.n0 VSS 0.102f
C41 a_1652_987.n1 VSS 0.45479f
C42 a_1652_987.t1 VSS 0.21976f
C43 VSS.t1 VSS 0.20955f
C44 VSS.t5 VSS 0.20542f
C45 VSS.t3 VSS 0.20345f
C46 VSS.t8 VSS 0.36784f
C47 VDD.n1 VSS 0.4583f
C48 VDD.n27 VSS 0.11436f
C49 VDD.n44 VSS 0.11875f
C50 VDD.n53 VSS 0.11436f
C51 VDD.n62 VSS 0.10996f
C52 VDD.n63 VSS 0.10996f
C53 VDD.n71 VSS 0.11875f
C54 VDD.n72 VSS 0.10556f
C55 VDD.n77 VSS 0.18473f
C56 VDD.n80 VSS 0.20672f
C57 VDD.n81 VSS 0.11436f
C58 A.n0 VSS 0.29506f
C59 A.n1 VSS 0.87844f
C60 A.n2 VSS 0.49959f
C61 A.n3 VSS 0.18854f
C62 A.n4 VSS 0.66179f
C63 B.n0 VSS 0.13556f
C64 B.n1 VSS 0.13102f
C65 B.n2 VSS 0.25206f
C66 B.n3 VSS 0.55103f
C67 C.n0 VSS 0.15555f
C68 C.n1 VSS 0.37707f
C69 C.n2 VSS 0.53636f
C70 C.n3 VSS 0.1024f
C71 Y.t0 VSS 0.22326f
.ends

